US05936000
6-Bromo-2-carboxymethyl-1-hydoxyindane. 5
6-Bromo-2-carboxymethyl-1-indanone (139 g, 650 mmol), methanol (1100 mL), and tetrahydrofuran (200 mL) were stirred at 0° C. Sodium borohydride (9.30 g, 245 mmol) was added in portions over 45 minutes and stirred another 45 minutes. More sodium borohydride (12.4 g, 326 mmol) was added in portions over 45 minutes and stirred another 60 minutes. Water was added and the solvent was removed under vacuum at 35° C. The residue was partitioned between diethyl ether and water. The organic layer was washed with water and brine and then dried over sodium sulfate. Flash chromatography of the crude product on a 30×7 cm silica gel column, eluting with dichloromethane/ethyl acetate/hexane (1:2:5), yielded an orange wax (99.6 g, 57%). 1H-NMR (300 MHz, CDCl3) (a ratio of approximately 1:1 cis to trans diastereomers) 7.55 (s, 0.43H), 7.51 (s, 0.57H), 7.39 (t, 0.57H, J=8.1), 7.39 (t, 0.43H, J=8.1), 7.13 (d, 0.43H, J=8.1), 7.08 (d, 0.57H, J=8.1), 5.44 (d, 0.57H, J=6.9), 5.30 (d, 0.43H, J=6.0), 3.79 (s, 1.71H), 3.77 (s, 1.29H), 3.45-2.95 (m, 3H), 2.87 (s, 1H).

reactant | 6-Bromo-2-carboxymethyl-1-indanone | 650 mmol, 139 g | BrC1=CC=C2CC(C(C2=C1)=O)CC(=O)O | C11H9BrO3
reactant | methanol | 1100 mL | CO | CH4O
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | Sodium borohydride | 245 mmol, 9.30 g | [BH4-].[Na+]
reactant | sodium borohydride | 326 mmol, 12.4 g | [BH4-].[Na+]
solvent | Water | O | H2O
product | 6-Bromo-2-carboxymethyl-1-hydoxyindane | BrC1=CC=C2CC(C(C2=C1)O)CC(=O)O | C11H11BrO3
